US08895582B2
To a solution of (S)-tert-butyl 4-(5-(benzo[d]thiazol-2-ylcarbamoyloxy)-4-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)pentanoyl)piperazine-1-carboxylate (713 mg, 1.05 mmol) in DCM (5 mL) was added TFA (1 mL) and allowed to stir for 30 min. The reaction mixture was concentrated, and the residue purified by RP-HPLC (20-100% ACN in H2O) and concentrated to give (S)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-oxo-5-(piperazin-1-yl)pentyl benzo[d]thiazol-2-ylcarbamate as an off-white solid (430 mg, 71%). LRMS (M+H+)=577.1

reactant | (S)-tert-butyl 4-(5-(benzo[d]thiazol-2-ylcarbamoyloxy)-4-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)pentanoyl)piperazine-1-carboxylate | 1.05 mmol, 713 mg | S1C(=NC2=C1C=CC=C2)NC(=O)OC[C@H](CCC(=O)N2CCN(CC2)C(=O)OC(C)(C)C)N(C(=O)NCC2=C(C(=CC=C2)F)Cl)C | C31H38ClFN6O6S
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-oxo-5-(piperazin-1-yl)pentyl benzo[d]thiazol-2-ylcarbamate | 430 mg, 71% | S1C(=NC2=C1C=CC=C2)NC(OC[C@H](CCC(N2CCNCC2)=O)N(C(=O)NCC2=C(C(=CC=C2)F)Cl)C)=O | C26H30ClFN6O4S
